US05696138
N-(3-benzoylphenyl)-N'-(2-methoxy-5-chlorophenyl) urea.
A mixture of 5-chloro-2-methoxyphenyl isocyanate (1.00 g, 5.4 mmol) and 3-aminobenzophenone (1.29 g, 6.5 mmol) was stirred in toluene (20 ml) for two days. The reaction was filtered and the filter cake washed with toluene. 1.9 g of the title compound was isolated.

reactant | 5-chloro-2-methoxyphenyl isocyanate | 5.4 mmol, 1.00 g | ClC=1C=CC(=C(C1)N=C=O)OC | C8H6ClNO2
reactant | 3-aminobenzophenone | 6.5 mmol, 1.29 g | NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C13H11NO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-benzoylphenyl)-N'-(2-methoxy-5-chlorophenyl) urea | 1.9 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)NC(=O)NC1=C(C=CC(=C1)Cl)OC | C21H17ClN2O3
